Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
vancomycin
 
Attending: ___.
 
Chief Complaint:
knee pain and swelling 
 
Major Surgical or Invasive Procedure:
Incision and Drainage of L knee abscess

 
History of Present Illness:
Presented to PCP ___ with cellulitis changes overlying L knee,
prescribed Bactrim. Had in-grown hair there several days 
earlier.
Presented to ___ 2 days later ___ due to worsening, received IM
CTX with borders marked. Due to worsening of area, presented to
ED. No systemic f/c, night sweats, lightheadedness/dizziness. 
Did
have decreased ROM in the L knee due to overlying pain. 

In the emergency room he had bedside incision and drainage of a 
abscess over his left patella.  His symptoms improved after this 
and he was hospitalized.  In the emergency room he did have an 
episode of "red man" syndrome second to vancomycin infusion.

Review of systems as above otherwise reviewed in detail and 
negative.
 
Past Medical History:
none
 
Social History:
___
Family History:
FHx: No known family history. No history of frequent/recurrent
infections. No renal disease history
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
PHYSICAL EXAM: 
VS:  Reviewed in OMR and stable 

GEN: NAD, A&Ox3, appropriate mood/affect
HEENT: NC/AT EOMI MMM 
CV: RRR no m/r/g 
RESP: CTAB
ABD: Soft NTND 
SKIN: 
- L leg with trace erythematous streaking anteriorly from
mid-thigh to lower shin. Borders marked, and erythema receding
from this. Knee with overlying mild swelling, small incisional
mark. 
EXT: L knee
- Mild TTP of joint edges 
- Full passive and active ROM of L knee

DISCHARGE PHYSICAL EXAM:
=========================
PHYSICAL EXAM: 
VS:  Reviewed in OMR and stable 

GEN: NAD, A&Ox3, appropriate mood/affect
HEENT: NC/AT EOMI MMM 
CV: RRR no m/r/g 
RESP: CTAB
ABD: Soft NTND 
SKIN: 
- L knee with approximately 4 inch diameter area of erythema,
receding from borders. When palpated, small amount of 
sanguineous
fluid emerges. No pus 
- Full passive and active ROM of L knee

 
Pertinent Results:
___ 09:28AM BLOOD Calcium-9.3 Phos-3.3 Mg-1.9
___ 11:50PM BLOOD Glucose-97 UreaN-11 Creat-1.3* Na-141 
K-4.4 Cl-102 HCO3-26 AnGap-13
___ 09:28AM BLOOD Glucose-91 UreaN-9 Creat-1.1 Na-137 K-4.4 
Cl-101 HCO3-24 AnGap-12
___ 11:50PM BLOOD Neuts-66.3 ___ Monos-11.0 Eos-1.2 
Baso-0.8 Im ___ AbsNeut-6.62* AbsLymp-2.03 AbsMono-1.10* 
AbsEos-0.12 AbsBaso-0.08
___ 09:28AM BLOOD Neuts-75.9* Lymphs-13.1* Monos-9.3 
Eos-0.7* Baso-0.5 Im ___ AbsNeut-8.53* AbsLymp-1.48 
AbsMono-1.05* AbsEos-0.08 AbsBaso-0.06
___ 11:50PM BLOOD WBC-10.0 RBC-5.19 Hgb-15.3 Hct-45.8 
MCV-88 MCH-29.5 MCHC-33.4 RDW-13.0 RDWSD-42.2 Plt ___
___ 09:28AM BLOOD WBC-11.3* RBC-5.04 Hgb-14.8 Hct-44.9 
MCV-89 MCH-29.4 MCHC-33.0 RDW-13.2 RDWSD-42.7 Plt ___

Microbiology:
___ 1:52 am ABSCESS      Source: L knee. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
OXACILLIN-------------   0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


Blood cultures without growth
 
Brief Hospital Course:
___ is a ___ year-old male with no significant PMH
who presents with a L knee abscess. He had his abscess drained 
in the ED and received one dose of IV vancomycin. He was 
subsequently discharged on Bactrim to complete a 7 day course of 
antibiotics. 

TRANSITIONAL ISUES:
===================
[] His Cr was elevated on admission to 1.3, likely in setting of 
decreased PO as well as possibly in setting of recent Bactrim. 
Cr downtrended to 1.1 at discharge.
[] Will be discharged to complete a 7 day course of Bactrim 
(___)
[] Discharge w/ close PCP ___ to ensure resolution of 
cellulitis 

=============
ACUTE ISSUES:
=============
#L Knee abscess
#Cellulitis
Presented to PCP ___ with cellulitis changes overlying L knee,
prescribed Bactrim. Presented to UC 2 days later ___ due to
worsening, received IM CTX with borders marked. Due to worsening
of area, presented to ED. Abscess on POCUS, drained. Trialed on
IV vanc in ED but had red-man syndrome and so started on IV
clinda. He developed nausea and vomiting on PO Clinda, so 
changed to PO Bactrim. He was discharged to complete a ___
SCr to 1.3; unclear etiology, presume pre-renal from infection
(pt states he did not eat/drink yesterday), however given 
Bactrim
administration may reflect increased tubular resorption of serum
creat. Endorsed 600mg/day of NSAID use prior to presentation. 
Given 2L IVF. Cr improved to 1.1 on discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 2 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 2 tablet(s) q 
twice a day Disp #*14 Tablet Refills:*0
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*14 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: knee pain, cellulitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
- knee pain 

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
- You had a small amount of infected fluid, called an abscess, 
which was seen in your left knee. This abscess was drained, and 
you were started on antibiotics. You had an allergic reaction to 
vancomycin, so you were given Benadryl for this reaction and 
were switched to a different antibiotic, Clindamycin. You had 
some nausea and vomiting with clindamycin, so you were switched 
to Bactrim. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- Please continue to take all your medications and follow up 
with your doctors at your ___ appointments.  
- Please be sure to finish your antibiotic course (last day: 
___

We wish you all the best!

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___